US08076428B2
Synthesis of bis(pentamethylcyclopentadienyl)(2-phenyl-4-fluorophenoxy)titanium (IV) chloride
1.90 g (10.09 mmol) of 2-phenyl-4-fluorophenol was dissolved in 80 ml of diethylether, and 4.8 ml of butyl lithium (2.5 M hexane solution) was slowly added dropwise thereto at 0° C. The mixture was allowed to react at room temperature for 5 hours, and then a solution of trichloro(pentamethylcyclopentadienyl)titanium (IV) (1.64 g, 5.5 mmol) in 10 ml of diethyl ether was slowly added dropwise thereto at −78° C. The reaction product was stirred at room temperature for 12 hours and filtered, and then volatile materials were removed therefrom. The residue was recrystallized from a mixed solvent of toluene/hexane at −35° C., thus obtaining 2.54 g of a orange-colored solid.

reactant | 2-phenyl-4-fluorophenol | 10.09 mmol, 1.90 g | C1(=CC=CC=C1)C1=C(C=CC(=C1)F)O | C12H9FO
reactant | butyl lithium | 2.5 M, 4.8 ml | C(CCC)[Li]
reactant | trichloro(pentamethylcyclopentadienyl)titanium (IV) | 5.5 mmol, 1.64 g | Cl[Ti](C1(C(=C(C(=C1C)C)C)C)C)(Cl)Cl
solvent | diethylether | 80 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | bis(pentamethylcyclopentadienyl)(2-phenyl-4-fluorophenoxy)titanium (IV) chloride | 2.54 g, Yield: 85% | CC1=C(C(=C(C1(C)[Ti](OC1=C(C=C(C=C1)F)C1=CC=CC=C1)(C1(C(=C(C(=C1C)C)C)C)C)Cl)C)C)C | InChI=1S/C12H9FO.2C10H15.ClH.Ti/c13-10-6-7-12(14)11(8-10)9-4-2-1-3-5-9;2*1-6-7(2)9(4)10(5)8(6)3;;/h1-8,14H;2*1-5H3;1H;/q;;;;+2/p-2
